US04371713
In the same reaction apparatus as in Example 1, to 500 g of tetrahydrofuran was dropwise added, while maintaining the same at -10° C., a solution prepared by dissolving 0.75 g of sodium borofluoride in 105 g of 25% fuming sulfuric acid over a period of 40 minutes. After completion of this dropwise addition, the mixture was further subjected to reaction at -10° C. for one hour. The conversion of tetrahydrofuran in this reaction was 40%. Then, the reaction mixture was heated to 30° C. and further reacted for 2 hours. The conversion upon the termination of this reaction was 55%. There was observed neither solidification nor coloration of the reaction system throughout the reaction. Then, the polymerization product was treated in the same manner as in Example 1 to obtain colorless PTMG. The results of the analyses of this product and the catalytic efficiency α were as shown in Table 1.

reactant | tetrahydrofuran | 500 g | O1CCCC1 | C4H8O
reactant | sodium borofluoride | 0.75 g | [B-](F)(F)(F)F.[Na+]
solvent | sulfuric acid | 105 g | S(O)(O)(=O)=O | H2O4S
product | PTMG | CCCCO[C@@H](CC)CO | C8H18O2
